US09278940B2
A mixture of 2-(6-fluoropyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one (0.100 g, 0.33 mmol), 1-(2-methoxyethyl)piperazine (0.072 g, 0.49 mmol) and 1,1,3,3-tetramethylguanidine (0.096 g, 0.83 mmol) in dry DMSO (2 mL) was heated at 80° C. for 17 h. After that time the reaction mixture was cooled to rt and diluted with ethyl acetate (30 mL). The organic phase was washed with water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The product was purified by flash column chromatography (silica gel, 97:3 dichloromethane/methanol to 95:5 dichloromethane/methanol) to give 5,7-dimethoxy-2-(6-(4-(2-methoxyethyl)piperazin-1-yl)pyridin-2-yl)quinazolin-4(3H)-one (0.070 g, 49%) as a yellow solid: mp 99-101° C.; 1H NMR (400 MHz, CDCl3) δ 10.32 (s, 1H), 7.85 (d, J=7.42 Hz, 1H), 7.61-7.71 (m, 1H), 6.77-6.87 (m, 2H), 6.48 (d, J=1.95 Hz, 1H), 3.99 (s, 3H), 3.94 (s, 3H), 3.64-3.71 (m, 4H), 3.59 (t, J=5.47 Hz, 2H), 3.40 (s, 3H), 2.61-2.71 (m, 6H); ESI MS m/z 426 [M+H]+.

reactant | 2-(6-fluoropyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.33 mmol, 0.100 g | FC1=CC=CC(=N1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C15H12FN3O3
reactant | 1-(2-methoxyethyl)piperazine | 0.49 mmol, 0.072 g | COCCN1CCNCC1 | C7H16N2O
reactant | 1,1,3,3-tetramethylguanidine | 0.83 mmol, 0.096 g | CN(C(=N)N(C)C)C | C5H13N3
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 5,7-dimethoxy-2-(6-(4-(2-methoxyethyl)piperazin-1-yl)pyridin-2-yl)quinazolin-4(3H)-one | 0.070 g, 49% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=NC(=CC=C1)N1CCN(CC1)CCOC)=O | C22H27N5O4
